US04067720
1 ml of triethylamine was added to a solution of 14.6 g of 3-hydroxy-5-ethoxy-1,2,4-thiadiazole in 250 ml of isopropyl ether and after 5 minutes, 8 g of vinyl isocyanate were added. The mixture was stirred for 30 minutes at 20° C and was vacuum filtered and the recovered precipitate was washed, dried and crystallized from ethyl acetate to obtain 15 g of 2-(N-vinylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one melting at 123° C.

reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-5-ethoxy-1,2,4-thiadiazole | 14.6 g | OC1=NSC(=N1)OCC | C4H6N2O2S
reactant | vinyl isocyanate | 8 g | C(=C)N=C=O | C3H3NO
solvent | isopropyl ether | 250 ml | C(C)(C)OC(C)C | C6H14O
product | 2-(N-vinylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one | 15 g | C(=C)NC(=O)N1SC(=NC1=O)OCC | C7H9N3O3S
